US08791133B2
4-{(E)-2-[5-(3-Fluorophenyl)pyridin-2-yl]vinyl}-7-methyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline-3-cyclopropylmethylcarboxamide
The title compound is prepared as a mixture of diastereomers according to procedure A from 200 mg of (E)-3-[5-(3-fluorophenyl)pyridin-2-yl]propenal, 111 mg of 5-methylcyclohexane-1,3-dione and 159 mg of 5-amino-1H-pyrazole-3-cyclopropyl methylcarboxamide.

reactant | (E)-3-[5-(3-fluorophenyl)pyridin-2-yl]propenal | 200 mg | FC=1C=C(C=CC1)C=1C=CC(=NC1)/C=C/C=O | C14H10FNO
reactant | 5-methylcyclohexane-1,3-dione | 111 mg | CC1CC(CC(C1)=O)=O | C7H10O2
reactant | 5-amino-1H-pyrazole 3-cyclopropyl methylcarboxamide | 159 mg | NC1=CC=NN1.C1CC1NC(=O)C
product | 4-{(E)-2-[5-(3-Fluorophenyl)pyridin-2-yl]vinyl}-7-methyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline 3-cyclopropylmethylcarboxamide | FC=1C=C(C=CC1)C=1C=CC(=NC1)/C=C/C1C2=C(NC=3CC(CC(C13)=O)C)NN=C2.C1CC1CC(=O)N | InChI=1S/C24H21FN4O.C5H9NO/c1-14-9-21-23(22(30)10-14)19(20-13-27-29-24(20)28-21)8-7-18-6-5-16(12-26-18)15-3-2-4-17(25)11-15;6-5(7)3-4-1-2-4/h2-8,11-14,19H,9-10H2,1H3,(H2,27,28,29);4H,1-3H2,(H2,6,7)/b8-7+;
